US04720500
The procedure is analogous to that described in Example 1, but starting with 3-bromobenzoic acid (6 g), N,N'-carbonyldiimidazole (4.9 g) and 2-amino-7-phenoxy-1,8-naphthyridine (5.9 g). The product obtained by precipitation in water (9.8 g; m.p. 188°-192° C.) is dissolved in acetonitrile (300 cc). After cooling for 1 hour at 4° C., the crystallized solid is separated by filtration, washed with acetonitrile (3×10 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-(7-Phenoxy-1,8-naphthyridin-2-yl)-3-bromobenzamide (5.4 g), m.p. 194° C., is obtained.

reactant | 3-bromobenzoic acid | 6 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 2-amino-7-phenoxy-1,8-naphthyridine | 5.9 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=CC=C1 | C14H11N3O
solvent | water | 9.8 g | O | H2O
solvent | acetonitrile | 300 cc | C(C)#N | C2H3N
product | N-(7-Phenoxy-1,8-naphthyridin-2-yl)-3-bromobenzamide | 5.4 g | O(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)Br)=O | C21H14BrN3O2
